US06552067B2
Analogous to the procedure described for Example 4A, Step E, 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzonitrile (157.8 mg, 0.419 mmol) was reacted with azidotrimethylsilane (0.11 mL, 0.84 mmol) and dibutyltin oxide (20 mg, 0.08 mmol) in toluene (8.6 mL) heated under reflux for 60 h. Purification by medium pressure chromatography (CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2 to 6% MeOH in CH2Cl2) provided 5-(3-hydroxy-4-phenyl-butyl)-1-{3-[4-(2H-tetrazol-5-yl)-phenyl]-propyl}-pyrrolidin-2-one (144.7 mg). 1H NMR (CDCl3) δ8.02 (m, 2H), 7.27 (m, 7H), 3.84 (m, 1H), 3.67 (m, 2H), 3.10 (m, 1H), 2.84 (m, 1H), 2.67 (m, 2H), 2.53 (m, 1H), 2.42 (m, 1H), 2.14 (m, 1H), 1.97-1.40 (m, 9H); MS 420.3 (M+1), 418.3 (M−1).

reactant | 4-{3-[2-(3-hydroxy-4-phenyl-butyl)-5-oxo-pyrrolidin-1-yl]-propyl}-benzonitrile | 0.419 mmol, 157.8 mg | OC(CCC1N(C(CC1)=O)CCCC1=CC=C(C#N)C=C1)CC1=CC=CC=C1 | C24H28N2O2
reactant | azidotrimethylsilane | 0.84 mmol, 0.11 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.08 mmol, 20 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 8.6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-hydroxy-4-phenyl-butyl)-1-{3-[4-(2H-tetrazol-5-yl)-phenyl]-propyl}-pyrrolidin-2-one | 144.7 mg | OC(CCC1CCC(N1CCCC1=CC=C(C=C1)C=1N=NNN1)=O)CC1=CC=CC=C1 | C24H29N5O2
